US07919519B2
In a sealed flask, a mixture of 5-(pyridin-2-ylmethyl)benzofuran-2-ylboronic acid (214 mg, 846 μmol) and potassium acetate (166 mg, 1691 μmol) was set under argon, treated with bis{di(tbutyl)phenyl}palladium(II) dichloride (32 mg, 51 μmol), followed by a solution of ethyl 1-(4-bromo-3-fluorobenzyl)azetidine-3-carboxylate (267 mg, 846 μmol) in EtOH (5 mL). The resulting suspension was degassed again and heated to 80° C. for 2.5 h. The mixture was cooled to ˜10° C. and dropwise treated with H2O (15 mL). The mixture was extracted 2× with EtOAc. The combined organic layers were dried over MgSO4 and evaporated. Purification by flash chromatography (DCM to DCM/MeOH=4:1) gave ethyl 1-((3-fluoro-4-(5-(pyridin-2-ylmethyl)benzofuran-2-yl)phenyl)methyl)azetidine-3-carboxylate as a yellow foam.

reactant | 5-(pyridin-2-ylmethyl)benzofuran-2-ylboronic acid | 846 μmol, 214 mg | N1=C(C=CC=C1)CC=1C=CC2=C(C=C(O2)B(O)O)C1 | C14H12BNO3
reactant | potassium acetate | 1691 μmol, 166 mg | C(C)(=O)[O-].[K+]
reactant | ethyl 1-(4-bromo-3-fluorobenzyl)azetidine-3-carboxylate | 846 μmol, 267 mg | BrC1=C(C=C(CN2CC(C2)C(=O)OCC)C=C1)F | C13H15BrFNO2
solvent | EtOH | 5 mL | CCO | C2H6O
product | ethyl 1-((3-fluoro-4-(5-(pyridin-2-ylmethyl)benzofuran-2-yl)phenyl)methyl)azetidine-3-carboxylate | FC=1C=C(C=CC1C=1OC2=C(C1)C=C(C=C2)CC2=NC=CC=C2)CN2CC(C2)C(=O)OCC | C27H25FN2O3
